US06649611B2
(R)-2-(4-Fluoro-benzylamino)-propionic acid methyl ester
To a solution of (R)-2-amino-propionic acid methyl ester hydrochloride (25 g, 179 mmol) and 4-fluorobenzaldehyde (23 ml, 215 mmol) in 1,2-dichloroethane (200 ml) was added triethylamine (25 ml, 179 mmol). The resulting mixture was stirred for two hours at ambient temperature followed by addition of sodium acetoxyborohydride (57 g, 268 mmol) in four portions. The resulting mixture was stirred overnight at ambient temperature. The reaction was neutralized with dilute aqueous sodium hydroxide solution and extracted with dichloromethane (2×). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (34.4 g, 91% yield).

reactant | (R)-2-amino-propionic acid methyl ester hydrochloride | 179 mmol, 25 g | Cl.COC([C@@H](C)N)=O
reactant | 4-fluorobenzaldehyde | 215 mmol, 23 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | triethylamine | 179 mmol, 25 ml | C(C)N(CC)CC | C6H15N
reactant | sodium acetoxyborohydride | 268 mmol, 57 g | C(C)(=O)O[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | (R)-2-(4-Fluoro-benzylamino)-propionic acid methyl ester | 34.4 g, 91% yield | COC([C@@H](C)NCC1=CC=C(C=C1)F)=O | C11H14FNO2
